### PR TITLE
New definition of Dcuts_minus

### PR DESCRIPTION
**Pull request by cathlelay**
- new definition of Dcuts_minus which need less the truncated subtraction of non-negative rationals
- definition of Dcuts_min
- add co-transitivity to StrongOrder
- remove "destruct" in various files

I didn't yet find an easy solution to remove the two match in NonnegativeRationals

### CODE REVIEW

**Comment by DanGrayson** [comment]
Use something like this:
```
diff --git a/UniMath/RealNumbers/NonnegativeRationals.v b/UniMath/RealNumbers/NonnegativeRationals.v
index 1c1b3af..333a797 100644
--- a/UniMath/RealNumbers/NonnegativeRationals.v
+++ b/UniMath/RealNumbers/NonnegativeRationals.v
@@ -26,12 +26,13 @@ Local Definition hnnq_zero: hnnq_set := hq_to_hnnq_set 0 (isreflhqleh 0).
 Local Definition hnnq_one: hnnq_set := hq_to_hnnq_set 1 (hqlthtoleh 0 1 hq1_gt0).
 Local Definition hnnq_plus: binop hnnq_set :=
   λ x y : hnnq_set, hq_to_hnnq_set (pr1 x + pr1 y) (hq0lehandplus _ _ (pr2 x) (pr2 y)).
-Local Definition hnnq_minus: binop hnnq_set :=
-  λ x y : hnnq_set,
-          match (hqgthorleh (pr1 x) (pr1 y)) with
-          | ii2 _ => hnnq_zero
-          | ii1 H => hq_to_hnnq_set (pr1 x - pr1 y) (hq0leminus _ _ (hqlthtoleh _ _ H))
-          end.
+Local Definition hnnq_minus: binop hnnq_set.
+Proof.
+  intros x y.
+  induction (hqgthorleh (pr1 x) (pr1 y)) as [H|_].
+  - exact (hq_to_hnnq_set (pr1 x - pr1 y) (hq0leminus _ _ (hqlthtoleh _ _ H))).
+  - exact hnnq_zero.
+Defined.
 Local Definition hnnq_mult: binop hnnq_set :=
   λ x y : hnnq_set, hq_to_hnnq_set (pr1 x * pr1 y) (hqmultgeh0geh0 (pr2 x) (pr2 y)).
 Local Definition hnnq_inv: unop hnnq_set :=
@@ -357,14 +358,15 @@ Proof.
   intros x y H.
   apply subtypeEquality_prop.
   unfold minusNonnegativeRationals, hnnq_minus.
-  generalize (hqgthorleh (pr1 x) (pr1 y)).
-  apply coprod_rect ; [intros Hgt | intros Hle].
+  induction (hqgthorleh (pr1 x) (pr1 y)) as [R|S].
   - reflexivity.
-  - generalize (isantisymmhqleh _ _ Hle H) ; intros Heq.
-    generalize (hq0leminus (pr1 y) (pr1 x) H).
-    rewrite Heq, hqrminus.
-    intros H0.
-    reflexivity.
+  - rewrite coprod_rect_compute_2.
+    unfold Rationals_to_NonnegativeRationals.
+    unfold hnnq_zero, hq_to_hnnq_set.
+    unfold pr1 at 1 2; unfold total2_rect.
+    induction (isantisymmhqleh _ _ S H).
+    apply pathsinv0.
+    apply hqrminus.
 Qed.
 Lemma multNonnegativeRationals_correct :
   Π (x y : NonnegativeRationals),
```

**Comment by cathlelay** [comment]
Thank you.
I removed the last "match" in NonnegativeReals.

File: UniMath/RealNumbers/NonnegativeRationals.v [hunk 1]
```diff
@@ -57,33 +59,43 @@ Qed.
...
-  now apply Htrans with y.
+  set (H := isStrongOrder_reverse _ isStrongOrder_hnnq_lt).
+  repeat split.
+  intros x y z.
+  now apply (pr1 H).
+  intros x y z.
+  now apply (pr1 (pr2 H)).
   intros x.
-  now apply Hirrefl.
+  now apply (pr2 (pr2 H)).
```
Comment (benediktahrens) [inline UniMath/RealNumbers/NonnegativeRationals.v]: It is better to write "access functions" instead of using the projections, for the following reason: suppose you change the definition of `isStrongOrder_reverse`, then by using the access functions you only need to change their definition once, instead of changing the projections in all the code.

**Comment by benediktahrens** [comment]
LGTM, modulo remark about access functions.
